US08937178B2
A solution of 2,2,2-trifluoro-N-(2-methylbenzo[d]oxazol-6-yl)acetamide (15.0 g, 61.2 mmol) in DMF (100 mL) was treated with K2CO3 (8.448 g, 61.2 mmol) and the reaction mixture was stirred at rt for 1 h, then cooled to 0° C. Iodomethane (3.9 mL, 64.2 mmol) was added dropwise and stirring continued at rt overnight. The reaction mixture was diluted with water (100 mL) and extracted with EtOAc (3×100 mL). The organics were washed with brine, dried over Na2SO4 and concentrated to obtain crude 2,2,2-trifluoro-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide (16.5 g), (MS: ESI +ve, 259.26 [M+H]).

reactant | 2,2,2-trifluoro-N-(2-methylbenzo[d]oxazol-6-yl)acetamide | 61.2 mmol, 15.0 g | FC(C(=O)NC1=CC2=C(N=C(O2)C)C=C1)(F)F | C10H7F3N2O2
reactant | K2CO3 | 61.2 mmol, 8.448 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Iodomethane | 64.2 mmol, 3.9 mL | IC | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2,2,2-trifluoro-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide | 16.5 g | FC(C(=O)N(C1=CC2=C(N=C(O2)C)C=C1)C)(F)F | C11H9F3N2O2
